US06225320B1
3-Bromo-2-methoxy-5-(2-trifluoromethylimidazol-1-yl)pyridine
3-Bromo-2-chloro-5-(2-trifluoromethylimidazol-1-yl)pyridine (318 mg, 0.97 mmol) in methanol (12 ml) was treated with sodium hydride (54 mg, 60% dispersion in oil, 1.41 mmol) and refluxed for 3 hrs. After cooling and concentration, the residue was purified by silica chromatography, to give the product as a yellow solid (252 mg, 80% yield).

reactant | 3-Bromo-2-chloro-5-(2-trifluoromethylimidazol-1-yl)pyridine | 0.97 mmol, 318 mg | BrC=1C(=NC=C(C1)N1C(=NC=C1)C(F)(F)F)Cl | C9H4BrClF3N3
reactant | sodium hydride | 1.41 mmol, 54 mg | [H-].[Na+]
reactant | methanol | 12 ml | CO | CH4O
product | 3-Bromo-2-methoxy-5-(2-trifluoromethylimidazol-1-yl)pyridine | 252 mg, 80% yield | BrC=1C(=NC=C(C1)N1C(=NC=C1)C(F)(F)F)OC | C10H7BrF3N3O
